US07371772B2
To a solution of 8-[4-(2-butoxyethoxy)phenyl]-1-propyl-N-[4-[[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]thio]phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxamide (0.70 g) in dichloromethane (20 ml) was added dropwise a solution of 3-chloro-perbenzoic acid (70%, 0.39 g) in dichloromethane (10 ml) and the mixture was stirred at −78° C. for 1 hour. To a reaction system was added an aqueous sodium thiosulfate solution, and the mixture was stirred at room temperature for several minutes. The mixture was extracted with ethyl acetate, the organic layer was washed with aqueous sodium bicarbonate solution and saturated brine, and was dried with magnesium sulfate. The resultant was concentrated under reduced pressure, after which the residue was separated and purified with column chromatography (basic silica gel, ethyl acetate→ethanol:ethyl acetate 1:19), followed by recrystallization (ethyl acetate-diisopropyl ether) to give 8-[4-(2-butoxyethoxy)phenyl]-1-propyl-N-[4-[[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]sulfinyl] phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxamide (579.7 mg) as yellow crystals (Compound 51).

reactant | 8-[4-(2-butoxyethoxy)phenyl]-1-propyl-N-[4-[[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]thio]phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxamide | 0.70 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CCC)C(=O)NC2=CC=C(C=C2)SCC2=NN=CN2CCC)C1 | C39H49N5O3S
reactant | 3-chloro-perbenzoic acid | 0.39 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 8-[4-(2-butoxyethoxy)phenyl]-1-propyl-N-[4-[[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]sulfinyl] phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxamide | 579.7 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CCC)C(=O)NC2=CC=C(C=C2)S(=O)CC2=NN=CN2CCC)C1 | C39H49N5O4S
